US07226951B2
(2-Fluoro-4-iodo-phenyl)-acetic acid 2-trimethylsilanyl-ethyl ester
A solution of 2-fluoro-4-iodo phenyl acetic acid (0.3 g, 1.07 mmol) and 2-(trimethylsilyl)ethanol (0.28 mL, 1.951 mmol) in anhydrous dichloromethane (5 mL) was treated with 4-(dimethylamino)pyridine (0.275 g, 2.3 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.37 g, 1.95 mmol) and the resulting reaction mixture was stirred at ambient temperature overnight. The reaction mixture was then subjected to flash column chromatography using 5% ethyl acetate in hexane as the eluent to afford the title compound as a white solid (0.37 g, 91%).

reactant | 2-fluoro-4-iodo phenyl acetic acid | 1.07 mmol, 0.3 g | FC1=C(C=CC(=C1)I)CC(=O)O | C8H6FIO2
reactant | 2-(trimethylsilyl)ethanol | 1.951 mmol, 0.28 mL | C[Si](CCO)(C)C | C5H14OSi
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.95 mmol, 0.37 g | Cl.CN(CCCN=C=NCC)C
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 2.3 mmol, 0.275 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | hexane | CCCCCC | C6H14
product | (2-Fluoro-4-iodo-phenyl)-acetic acid 2-trimethylsilanyl-ethyl ester | 0.37 g, 91% | C[Si](CCOC(CC1=C(C=C(C=C1)I)F)=O)(C)C | C13H18FIO2Si
